US08648066B2
To a solution of 5-bromo-1H-pyrazolo[3,4-b]pyridine (1.4 g, 7.2 mmol) and dihydropyran (3.3 mL, 36.0 mmol) in tetrahydrofuran (20 mL) was added (±)-camphorsulfonic acid (250 mg) and the reaction mixture was stirred at 65° C. for 16 hours. After cooling to room temperature it was diluted with ethyl acetate (250 mL), washed with saturated aqueous sodium bicarbonate (2×100 mL) and brine (100 mL), dried over sodium sulfate, filtered and concentrated. Gradient column chromatography (10% to 30% ethyl acetate in hexane) provided 5-bromo-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-b]pyridine (1.8 g, 90%). MS (EI) for C11H12BrN3O: 283 (MH+).

reactant | 5-bromo-1H-pyrazolo[3,4-b]pyridine | 7.2 mmol, 1.4 g | BrC=1C=C2C(=NC1)NN=C2 | C6H4BrN3
reactant | dihydropyran | 36.0 mmol, 3.3 mL | O1CCCC=C1 | C5H8O
reactant | (±)-camphorsulfonic acid | 250 mg | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
product | 5-bromo-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-b]pyridine | 1.8 g, 90% | BrC=1C=C2C(=NC1)N(N=C2)C2OCCCC2 | C11H12BrN3O
